US08420684B2
Compound 333 1-(1H-Benzoimidazol-5-yl)-5-(4-bromo-phenyl)-4-((S)-indan-1-ylimino)-imidazolidin-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 4-Bromobenzaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours 2 ml of a solution of KOCN (KSCN) (2 mmol) and Pyridinehydrochloride (2 mmol) in MeOH is added was added. Finally 3-(S)-1-Isocyano-indan (1 mmol) is added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-Bromobenzaldehyde | 1 mmol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | KOCN | 2 mmol | O([K])C#N
reactant | Pyridinehydrochloride | 2 mmol | Cl.N1=CC=CC=C1
reactant | methanol | 2 ml | CO | CH4O
product | 1-(1H-Benzoimidazol-5-yl)-5-(4-bromo-phenyl)-4-((S)-indan-1-ylimino)-imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NC(C2C2=CC=C(C=C2)Br)=N[C@H]2CCC1=CC=CC=C21)=O | C25H20BrN5O
